US07470710B2
Description 44: (RS)-(4-{1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanoyl}-morpholin-3-yl)-acetic acid ethyl ester
The title compound (1.48 g, 66%) was prepared from (RS)-morpholin-3-yl-acetic acid ethyl ester, D43 (1.37 g, 5.8 mmol) and 5-(4-fluoro-phenyl)-2-methyl-thiazole4-carboxylic acid (1.00 g, 5.8 mmol) according to a procedure similar to that described for D16.

reactant | (RS)-morpholin-3-yl-acetic acid ethyl ester | C(C)OC(CC1NCCOC1)=O | C8H15NO3
reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole4-carboxylic acid | 5.8 mmol, 1.00 g | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
product | (RS)-(4-{1-[5-(4-Fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanoyl}-morpholin-3-yl)-acetic acid ethyl ester | 1.48 g, 66% | C(C)OC(CC1N(CCOC1)C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)=O | C19H21FN2O4S
